US08097613B2
a) 2-(3-Methyl-butyl)-6-thiophen-2-yl-2H-pyridazine-3,5-dione
5-Hydroxy-2-(3-methyl-butyl)-3-oxo-6-thiophen-2-yl-2,3-dihydro-pyridazine-4-carboxylic acid ethyl ester (0.3 g, 0.892 mmol, prepared as described in WO06066079A2) was dissolved in 1,4-dioxane (10 mL) and a 1.0 M aqueous hydrochloric acid solution (10 mL) was added. The mixture stirred in a sealed tube at 100° C. for 4 h. Upon cooling, the mixture was concentrated in vacuo to afford a thick oil. The oil was dissolved in dichloromethane (15 mL) and passed through a plug of silica gel (Merck silica gel 60, 40-63 μm), eluting with ethyl acetate. Upon concentrating, the desired product, 2-(3-methyl-butyl)-6-thiophen-2-yl-2H-pyridazine-3,5-dione (0.215 g, 0.814 mmol) was obtained as a thick oil. 1H NMR (400 MHz, DMSO-d6) δ: 0.91 (6H, d, J=6.2 Hz), 1.49-1.61 (3H, m), 4.03 (2H, t, J=7.1 Hz), 6.09 (1H, s), 7.10 (1H, dd, J1=8.6 Hz, J2=0.0 Hz), 7.58 (1H, d, J=5.4 Hz), 7.77 (1H, dd, J1=4.0 Hz, J2=1.6 Hz), 12.02 (1H, s).

reactant | 5-Hydroxy-2-(3-methyl-butyl)-3-oxo-6-thiophen-2-yl-2,3-dihydro-pyridazine-4-carboxylic acid ethyl ester | 0.892 mmol, 0.3 g | C(C)OC(=O)C=1C(N(N=C(C1O)C=1SC=CC1)CCC(C)C)=O | C16H20N2O4S
reactant | hydrochloric acid | 1.0 M, 10 mL | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-(3-methyl-butyl)-6-thiophen-2-yl-2H-pyridazine-3,5-dione | 0.814 mmol, 0.215 g | CC(CCN1N=C(C(CC1=O)=O)C=1SC=CC1)C | C13H16N2O2S
